*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/3.90e-04[uF]/100[V]
* Murata P/N :GCM2165C2A391JA16
* Property : C = 3.90e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C2A391JA16 Port1 Port2
C01 Port1 N01 3.90e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 3.53e-11
R03 N02 N03 6.50e-02
C04 N03 N04 1.15e-09
L04 N03 N04 1.48e-11
R04 N03 N04 2.87e-01
C05 N04 N05 2.31e-10
L05 N04 N05 2.21e-11
R05 N04 N05 7.21e-01
C06 N05 N06 7.85e-10
L06 N05 N06 3.62e-12
R06 N05 N06 2.91e-01
C07 N06 Port2 7.95e-13
L07 N06 Port2 4.31e-10
R07 N06 Port2 6.72e+02
.ENDS GCM2165C2A391JA16
